US07018988B2
(3EZ,5S)-1-(diphenylacetyl)-5-(1-piperidinylcarbonyl)-3-pyrrolidinone O-(4-methoxybenzyl)oxime
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, diphenylacetyl chloride, and piperidine the title compound was obtained in 87% purity by LC/MS. MS(ESI+): m/z=526.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC=C(C=C1)OC)C(=O)O | C18H24N2O6
reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | piperidine | N1CCCCC1 | C5H11N
product | (3EZ,5S)-1-(diphenylacetyl)-5-(1-piperidinylcarbonyl)-3-pyrrolidinone O-(4-methoxybenzyl)oxime | COC1=CC=C(CON=C2CN([C@@H](C2)C(=O)N2CCCCC2)C(C(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C32H35N3O4
